US07214673B2
(S)-2-(2-(4-Methoxy-phenyl)-ethyl)-piperazine
Combine (S)-1,4-dibenzyl-2-(2-(4-methoxy-phenyl)-ethyl)-piperazine (1.34 g, 3.33 mmol), ammonium formate (1.05 g, 16.67 mmol), 5% Pd/C (161.2 mg), and ethanol (100 mL). Stir and heat the mixture at reflux. After 3 hours, cool to ambient temperature and remove the catalyst by vacuum filtration through celite. Reduce the filtrate to residue and purify it on silica gel using dichloromethane/2N ammonia in methanol (80:20) to give (689.3 mg, 94%) of the title compound as a white solid: mp 125–130° C.; mass spectrum (ion spray): m/z=221.1 (M+1); Analysis for C13H20N2O: calcd: C, 70.87; H, 9.15; N, 12.72; found: C, 70.58; H, 9.05; N, 12.61.

reactant | (S)-1,4-dibenzyl-2-(2-(4-methoxy-phenyl)-ethyl)-piperazine | 3.33 mmol, 1.34 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=CC=C(C=C1)OC | C27H32N2O
reactant | ammonium formate | 16.67 mmol, 1.05 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | 161.2 mg | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (S)-2-(2-(4-Methoxy-phenyl)-ethyl)-piperazine | 689.3 mg, 94% | COC1=CC=C(C=C1)CC[C@@H]1NCCNC1 | C13H20N2O
